US08492401B2
Nitrogen was bubbled through a solution of Ethyl 5-bromo-2-phenylthiazole-4-carboxylate (3.6 g, 11.5 mmol) and 2-(prop-2-ynyloxy)tetrahydro-2H-pyran (3.3 mL, 23.1 mmol) in THF (30 mL). Dichlorobis(triphenylphosphine)palladium (II) (405 mg, 0.6 mmol), copper (I) iodide (55 mg, 0.3 mmol), and triethylamine (TEA) (8 mL, 57.7 mmol) were added and the reaction mixture was heated at 100° C. for 30 min in a microwave reactor. The reaction mixture was poured into H2O and extracted with EtOAc. The combined organics were washed with brine, dried (MgSO4), and concentrated. The crude product was purified by MPLC eluting with pentane/EtOAc (0-50% gradient) to give ethyl 2-phenyl-5-(3-(tetrahydro-2H-pyran-2-yloxy)prop-1-ynyl)thiazole-4-carboxylate (3.8 g, 88% yield).

reactant | Ethyl 5-bromo-2-phenylthiazole-4-carboxylate | 11.5 mmol, 3.6 g | BrC1=C(N=C(S1)C1=CC=CC=C1)C(=O)OCC | C12H10BrNO2S
reactant | 2-(prop-2-ynyloxy)tetrahydro-2H-pyran | 23.1 mmol, 3.3 mL | C(C#C)OC1OCCCC1 | C8H12O2
reactant | triethylamine | 57.7 mmol, 8 mL | C(C)N(CC)CC | C6H15N
reactant | H2O | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
catalyst | Dichlorobis(triphenylphosphine)palladium | 0.6 mmol, 405 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 0.3 mmol, 55 mg | [Cu]I
product | ethyl 2-phenyl-5-(3-(tetrahydro-2H-pyran-2-yloxy)prop-1-ynyl)thiazole-4-carboxylate | 3.8 g, 88% yield | C1(=CC=CC=C1)C=1SC(=C(N1)C(=O)OCC)C#CCOC1OCCCC1 | C20H21NO4S
